US04737516
(Q) 3-(2,2-Dibromovinyl)-7-methylbenzo[b]thiophene
1.04 g of Zn dust and 4.17 g of triphenylphosphine are taken up in dichloromethane and 5.27 of tetrabromomethane dissolved in dichloromethane added dropwise under inert gas and with cooling. Following stirring for 24 hours at room temperature 1.4 g of 3-formyl-7-methylbenzo[b]thiophene dissolved in dichloromethane are added dropwise with ice-cooling and stirring continued overnight at room temperature. Pentane is added and the precipitated Ph3PO filtered off. Evaporation of the filtrate under vacuum yields a residue which is chromatographed over silica gel to yield the title compound, M.p.=75°-78°.

reactant | triphenylphosphine | 4.17 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrabromomethane | BrC(Br)(Br)Br | CBr4
reactant | 3-formyl-7-methylbenzo[b]thiophene | 1.4 g | C(=O)C=1C2=C(SC1)C(=CC=C2)C | C10H8OS
reactant | Pentane | CCCCC | C5H12
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Zn | 1.04 g | [Zn] | Zn
product | 3-(2,2-Dibromovinyl)-7-methylbenzo[b]thiophene | BrC(=CC=1C2=C(SC1)C(=CC=C2)C)Br | C11H8Br2S
